US08304555B2
Dried ethyl ether (40 ml) was added to activated magnesium (1.22 g; 50 mmol), and 1-bromododecane (12.46 g; 50 mmol) was added thereto to prepare a Grignard reagent. Then, Ni(dppp)Cl2 (33 mg) was added thereto, and 3-bromothiophene (8 g; 49 mmol) dissolved in 10 ml of ether was slowly added dropwise. The reaction solution was refluxed for one day, and then a mixture of 2N HCl/ice (50 ml) was added to terminate the reaction. The resultant was extracted from ethyl ether, and the solvent was distilled off under reduced pressure. The residue was dissolved in DMF (50 ml) and filtered to remove remaining paraffin. The filtrate was concentrated, and then the residue was distilled off under vacuum to obtain a colorless liquid 3-dodecylthiophene (10.5 g; 85%).

reactant | magnesium | 50 mmol, 1.22 g | [Mg] | Mg
reactant | 1-bromododecane | 50 mmol, 12.46 g | BrCCCCCCCCCCCC | C12H25Br
reactant | 3-bromothiophene | 49 mmol, 8 g | BrC1=CSC=C1 | C4H3BrS
solvent | ether | 10 ml | CCOCC | C4H10O
catalyst | Ni(dppp)Cl2 | 33 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
product | 3-dodecylthiophene | 10.5 g, 85% | C(CCCCCCCCCCC)C1=CSC=C1 | C16H28S
